US07393873B2
2-(2,4-Dichlorophenoxy)aniline HCl (1.14 g, 3.94 mmol) and 5-bromo-6-chloropyridine-3-sulfonyl chloride (1.26 g, 4.33 mmol) were dissolved in pyridine (4 mL) and allowed to stir at ambient temperature for 1 hour. The reaction mixture was then diluted with 100 mL of ethyl acetate, 80 mL of 0.5 M HCl. The organic layer was washed successively with 100 mL of 0.5 M HCl, twice with 100 mL of water, 100 mL of half-saturated brine and finally 100 mL of brine. Drying of the organic layer over sodium sulfate was followed by filtration and solvent removal under reduced pressure. The resulting residue was purified by silica gel chromatography (linear gradient 60-100% DCM in hexanes) to yield 5-bromo-6-chloro-N-[2-(2,4-dichlorophenoxy)phenyl]pyridine-3-sulfonamide, giving proton NMR and mass spectral data consistent with theory.

reactant | 2-(2,4-Dichlorophenoxy)aniline HCl | 3.94 mmol, 1.14 g | Cl.ClC1=C(OC2=C(N)C=CC=C2)C=CC(=C1)Cl
reactant | 5-bromo-6-chloropyridine-3-sulfonyl chloride | 4.33 mmol, 1.26 g | BrC=1C=C(C=NC1Cl)S(=O)(=O)Cl | C5H2BrCl2NO2S
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | HCl | 0.5 M, 80 mL | Cl | ClH
product | 5-bromo-6-chloro-N-[2-(2,4-dichlorophenoxy)phenyl]pyridine-3-sulfonamide | BrC=1C=C(C=NC1Cl)S(=O)(=O)NC1=C(C=CC=C1)OC1=C(C=C(C=C1)Cl)Cl | C17H10BrCl3N2O3S
